US07612114B2
6-{2-{[4-(2-Dimethylaminoethoxy)-3-fluorobenzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
To cesium carbonate (36 mg) and potassium iodide (5.0 mg) were sequentially added a solution of pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) in tetrahydrofuran (0.8 ml) and a solution of 2-chloro-N,N-dimethylacetamide (11 mg) in tetrahydrofuran (0.2 ml), and the solution was stirred for 1.5 hours at 60° C. The reaction solution was let to cool, then lithium aluminum hydride-aluminum chloride (1.0 M solution in tetrahydrofuran) (0.57 ml) was added dropwise thereto followed by stirring for 1 hour at room temperature. Tetrahydrofuran and ammonia solution were sequentially added thereto, the solution was filtered through celite pad and concentrated under a nitrogen stream; purified from a solution of the resulting residue in N,N-dimethylformamide by LC-MS, the title compound (9.1 mg) was obtained.

reactant | cesium carbonate | 36 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 5.0 mg | [I-].[K+]
reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | FC=1C=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=CC1O | C32H36FNO5
reactant | 2-chloro-N,N-dimethylacetamide | 11 mg | ClCC(=O)N(C)C | C4H8ClNO
reactant | lithium aluminum hydride-aluminum chloride | 1.0 M, 0.57 ml | [Cl-].[Al+3].[H-].[Al+3].[Li+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 0.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | 6-{2-{[4-(2-Dimethylaminoethoxy)-3-fluorobenzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 9.1 mg | CN(CCOC1=C(C=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=C1)F)C | C31H39FN2O3
